US05578627
A solution of 2.86 g of 2-amino-1-pentanol in 2 ml of tetrahydrofuran is added to a suspension of 2.24 g of 60% (w/w) sodium hydride in 20 ml of tetrahydrofuran at 20°-25° C. and they are refluxed for two hours. Subsequently, under reflux, a solution of 4.3 g of 3-chloro-1,2-benzoisoxazole in 30 ml of tetrahydrofuran is added and refluxed for a further one hour. After cooling, the solvent is removed by distillation under reduced pressure. Ethyl acetate and water are added to the residue obtained, and after shaking, the organic layer is separated. The separated organic layer is washed with a saturated saline solution, dried over anhydrous magnesium sulfate, and thereafter purified by a silica gel column chromatography [eluant:chloroform:methanol=20:1], to obtain 5.38 g of oily 3-(2-aminopentyloxy)-1,2-benzoisoxazole.

reactant | 2-amino-1-pentanol | 2.86 g | NC(CO)CCC | C5H13NO
reactant | sodium hydride | [H-].[Na+]
reactant | 3-chloro-1,2-benzoisoxazole | 4.3 g | ClC1=NOC2=C1C=CC=C2 | C7H4ClNO
solvent | tetrahydrofuran | 2 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 30 ml | O1CCCC1 | C4H8O
product | 3-(2-aminopentyloxy)-1,2-benzoisoxazole | 5.38 g | NC(COC1=NOC2=C1C=CC=C2)CCC | C12H16N2O2
